US06063782
1-(2-Butenyl)-7-(2,4-difluorobenzylthio)-2,3-dimethylpyrrolo[2,3-d]pyridazine
The title compound (cis/trans=16:84) was prepared as pale brown crystals in 39.0% yield in a similar procedure to that described in Example 1 by using 1-(2-butenyl)-7-chloro-2,3-dimethylpyrrolo[2,3-d]pyridazine (cis/trans=22/78) and 2,4-difluorophenylmethanethiol.

reactant | 1-(2-butenyl)-7-chloro-2,3-dimethylpyrrolo[2,3-d]pyridazine | C(C=CC)N1C(=C(C=2C1=C(N=NC2)Cl)C)C | C12H14ClN3
reactant | 2,4-difluorophenylmethanethiol | FC1=C(C=CC(=C1)F)CS | C7H6F2S
product | 1-(2-Butenyl)-7-(2,4-difluorobenzylthio)-2,3-dimethylpyrrolo[2,3-d]pyridazine | 39.0% yield | C(C=CC)N1C(=C(C=2C1=C(N=NC2)SCC2=C(C=C(C=C2)F)F)C)C | C19H19F2N3S
